US08389511B2
tert-Butyl (2R,5R)-2-{2-[[(4-chlorophenyl)acetyl](cyclopropyl)amino]ethyl}-5-[{[4-{2-[(difluoroacetyl)amino]ethyl}-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl)carbonyl](isopropyl)amino]piperidine-1-carboxylate
To a solution of tert-butyl (2R,5R)-2-[2-(cyclopropylamino)ethyl]-5-[{[4-{2-[(difluoroacetyl)-amino]ethyl}-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}-(isopropyl)amino]piperidine-1-carboxylate (86 mg) in N,N-dimethylformamide (1 ml) were added 4-chlorophenylacetic acid (22 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (34 mg), 1-hydroxybenzotriazole monohydrate (24 mg) and triethylamine (50 μl), and the mixture was stirred at room temperature overnight. To the reaction solution was added water, and the mixture was extracted with ethyl acetate (50 ml). The organic layer was washed with water and a saturated aqueous sodium chloride solution. Then, the mixture was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (the developing solvent: hexane/acetone=2/1) to give the title compound (90 mg).

reactant | tert-butyl (2R,5R)-2-[2-(cyclopropylamino)ethyl]-5-[{[4-{2-[(difluoroacetyl)-amino]ethyl}-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}-(isopropyl)amino]piperidine-1-carboxylate | 86 mg | C1(CC1)NCC[C@@H]1N(C[C@@H](CC1)N(C(C)C)C(=O)C=1C(=CC2=C(N(C(C(O2)(C)C)=O)CCNC(C(F)F)=O)C1)C(F)(F)F)C(=O)OC(C)(C)C | C34H48F5N5O6
reactant | 4-chlorophenylacetic acid | 22 mg | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 34 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 24 mg | O.ON1N=NC2=C1C=CC=C2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 50 μl | C(C)N(CC)CC | C6H15N
product | tert-Butyl (2R,5R)-2-{2-[[(4-chlorophenyl)acetyl](cyclopropyl)amino]ethyl}-5-[{[4-{2-[(difluoroacetyl)amino]ethyl}-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl)carbonyl](isopropyl)amino]piperidine-1-carboxylate | 90 mg | ClC1=CC=C(C=C1)CC(=O)N(CC[C@@H]1N(C[C@@H](CC1)N(C(C)C)C(=O)C=1C(=CC2=C(N(C(C(O2)(C)C)=O)CCNC(C(F)F)=O)C1)C(F)(F)F)C(=O)OC(C)(C)C)C1CC1 | C42H53ClF5N5O7
